US06660742B2
A solution of NaOH (0.17 g, 4.31 mmol) in H2O (20 mL) was added to a suspension of ethyl [4-(N-benzyloxycarbonylamino)-2-nitronaphthalen-1-yl]acetate (0.8 g, 1.96 mmol) in EtOH (20 mL), and the mixture was heated to reflux for 2hr. EtOH was evaporated and washed with Et2O (10 mL). The aqueous layer was acidified (pH 1) with 6 M HCl. The resulting precipitate was filtered and left out overnight to provide [4-(N-benzyloxycarbonylamino)-2-nitronaphthalen-1-yl]acetic acid (0.66 g, 89%) as an orange solid. M.p. 170-172° C. (decomp.); 1H NMR (DMSO-d6, 500 MHz) δ 8.40 (d, 8.5, 1H), 8.13 (d, 9.0, 1H), 7.67 (m, 2H), 7.55 (m, 1H), 7.41 (d, 7.5, 2H), 7.32 (t, 7.0, 2H), 7.22 (t, 8.0, 1H), 6.71 (s, 1H), 4.55 (d, 5.5, 2H), 4.04 (s, 2H); ESMS m/z 337 (M−CO2+H+), 673 ((M−CO2)×2+H+); IR (nujol) 3405, 2652, 1696, 1590, 1515, 1461, 1439, 1377, 1333, 1249, 1120, 929, 832, 792, 752, 699 cm−1. FABMS (NBA) m/z 336 (M−CO2+).

reactant | NaOH | 4.31 mmol, 0.17 g | [OH-].[Na+]
reactant | ethyl [4-(N-benzyloxycarbonylamino)-2-nitronaphthalen-1-yl]acetate | 1.96 mmol, 0.8 g | C(C1=CC=CC=C1)OC(=O)NC1=CC(=C(C2=CC=CC=C12)CC(=O)OCC)[N+](=O)[O-] | C22H20N2O6
solvent | H2O | 20 mL | O | H2O
solvent | EtOH | 20 mL | CCO | C2H6O
product | [4-(N-benzyloxycarbonylamino)-2-nitronaphthalen-1-yl]acetic acid | 0.66 g, 89% | C(C1=CC=CC=C1)OC(=O)NC1=CC(=C(C2=CC=CC=C12)CC(=O)O)[N+](=O)[O-] | C20H16N2O6
